US06846835B2
Synthesis of t-butyl(3R)-3-(2-ethoxy-2-oxoethyl)tetrahydropyridine-1(2H)-carboxylate
To a solution of 1.15 g of ethyl 2-((3R)-piperidin-3-yl)acetate L-(+)-mandelate (cf. JP-Hei 10 (1998)-508321A) in 20 ml of dioxane, 780 mg of di-t-butyl-dicarbonate and 10 ml of 10% aqueous potassium carbonate solution were added, followed by 30 minutes' stirring at room tempereture. The reaction liquid was diluted with diethyl ether, washed with saturated brine and dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, 985 mg of the title compound was obtained.

reactant | ethyl 2-((3R)-piperidin-3-yl)acetate L-(+)-mandelate | 1.15 g | C([C@@H](O)C1=CC=CC=C1)(=O)O.N1C[C@H](CCC1)CC(=O)OCC
reactant | di-t-butyl-dicarbonate | 780 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 10 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | t-butyl(3R)-3-(2-ethoxy-2-oxoethyl)tetrahydropyridine-1(2H)-carboxylate | 985 mg | C(C)OC(C[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)=O | C14H25NO4
